US04885347
1. Preparation of 2,2,6,6-tetramethyl-4-(chlorocarbonyloxy)piperidinium chloride
Into a 500 ml flask equipped with a magnetic stirbar, thermometer, gas inlet adapter, dual condensers (i.e., Dry Ice condenser atop a water cooled condenser), and oil bath were placed 28.2 g (0.145 mole) of 2,2,6,6-tetramethyl-4-piperidinol hydrochloride and 250 ml of 2-butanone. The mixture was heated to reflux and 8.0 ml (0.11 mole) of condensed phosgene was allowed to evaporate into the reaction mixture cooling the mass to 73°-75° C. This was followed by pipet addition of 11.5 g (0.145 mole) of pyridine which caused an exothermic reaction raising the temperature to 80° C. An additional 10 ml (0.14 mole) of phosgene were evaporated into the system. During this time the reaction mixture cleared of initially suspended solid and then formed a precipitate. After the addition of phosgene was completed, nitrogen was bubbled into the system for 40 minutes under continued reflux. The mixture was then allowed to cool gradually overnight and then was cooled further in an ice water bath. The very hygroscopic solid was collected by filtration. The liquid was reduced to 50 ml volume by distillation at atmospheric pressure, cooled to ambient, and diluted with 100 ml of tetrahydrofuran. In this manner, more solids were obtained and isolated by filtration. The combined solids were then freed from residual solvent under high vacuum. The product was a mixture of the tetramethylpiperidinium chloride compound and pyridinium hydrochloride. This mixture was used in the next step without further purification.

reactant | Dry Ice | C(=O)=O | CO2
reactant | 2,2,6,6-tetramethyl-4-piperidinol hydrochloride | 0.145 mole, 28.2 g | Cl.CC1(NC(CC(C1)O)(C)C)C
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 0.145 mole, 11.5 g | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 0.14 mole, 10 ml | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylpiperidinium chloride | [Cl-].CC1([N+](CCCC1)(C)C)C
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
product | 2,2,6,6-tetramethyl-4-(chlorocarbonyloxy)piperidinium chloride | [Cl-].CC1([NH2+]C(CC(C1)OC(=O)Cl)(C)C)C | InChI=1S/C10H18ClNO2.ClH/c1-9(2)5-7(14-8(11)13)6-10(3,4)12-9;/h7,12H,5-6H2,1-4H3;1H
